US08623889B2
Step 3: 1-(6-chloro-1,7-naphthyridin-2-yl)cyclopentanol
A suspension of 2-bromo-6-chloro-1,7-naphthyridine (300 mg, 1 mmol) in toluene (8 mL) cooled at −78° C. under an atmosphere of nitrogen was treated with n-butyllithium (1.6M solution in hexanes, 2.3 mL, 3.7 mmol) dropwise over 5 minutes. The reaction mixture was stirred at this temperature for 6 hours and then cyclopentanone (0.33 mL, 3.7 mmol) was added slowly as a solution in toluene (1.3 mL). After 15 minutes, the mixture was allowed to warm to room temperature and then quenched with a few drops of saturated aqueous ammonium chloride solution. The reaction mixture was diluted with ethyl acetate (50 mL) and washed with water (50 mL). The organic layer was separated, dried over sodium sulfate, filtered, and evaporated in vacuo to afford a residue that was purified by flash chromatography (silica, 12 g, ISCO, 0-50% ethyl acetate in heptane) to afford the title compound as an orange, waxy solid (65 mg, 20%), which was used in the next step without further purification.

reactant | 2-bromo-6-chloro-1,7-naphthyridine | 1 mmol, 300 mg | BrC1=NC2=CN=C(C=C2C=C1)Cl | C8H4BrClN2
reactant | n-butyllithium | 3.7 mmol, 1.6M, 2.3 mL | C(CCC)[Li]
reactant | cyclopentanone | 3.7 mmol, 0.33 mL | C1(CCCC1)=O | C5H8O
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1.3 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(6-chloro-1,7-naphthyridin-2-yl)cyclopentanol | ClC=1C=C2C=CC(=NC2=CN1)C1(CCCC1)O | C13H13ClN2O
